US07754759B2
To a solution of 7-benzenesulfonyl-2-[(tert-butoxycarbonyl-methyl-amino)-methyl]-chroman-8-carboxylic acid (52 mg, 0.113 mmol) in DCM (10 mL) was added SOCl2 (25 μL, 0.339 mmol). The reaction was heated to reflux for 2 hours, then a solution of MeNH2 (40% in water, 0.5 mL) in acetonitrile (5 mL) was added and the mixture was allowed to stir for 1 hour. The reaction was concentrated in vacuo and the residue was purified via flash chromatography (DCM/MeOH, 98/2) to give (7-benzenesulfonyl-8-methylcarbamoyl-chroman-2-ylmethyl)-methyl-carbamic acid tert-butyl ester (52 mg, 98% yield) as clear oil.

reactant | 7-benzenesulfonyl-2-[(tert-butoxycarbonyl-methyl-amino)-methyl]-chroman-8-carboxylic acid | 0.113 mmol, 52 mg | C1(=CC=CC=C1)S(=O)(=O)C1=CC=C2CCC(OC2=C1C(=O)O)CN(C)C(=O)OC(C)(C)C | C23H27NO7S
reactant | SOCl2 | 0.339 mmol, 25 μL | O=S(Cl)Cl | Cl2OS
reactant | MeNH2 | 0.5 mL | CN | CH5N
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | (7-benzenesulfonyl-8-methylcarbamoyl-chroman-2-ylmethyl)-methyl-carbamic acid tert-butyl ester | 52 mg, 98% yield | C(C)(C)(C)OC(N(C)CC1OC2=C(C(=CC=C2CC1)S(=O)(=O)C1=CC=CC=C1)C(NC)=O)=O | C24H30N2O6S
